US07723329B2
Sodium azide (0.79 g, 12 mmol) was added to a solution of toluene-4-sulfonic acid 2-[3-(naphthalene-1-sulfonyl)-1H-indazol-5-yloxy]-ethyl ester (2.06 g, 3.94 mmol) in DMF (20 mL). The reaction mixture was stirred at 80° C. for 12 hours in a sealed tube. After cooling to ambient temperature, it was poured into excess water and extracted with ethyl acetate. The organic phase was washed with 10% ammonium chloride/water solution, water and brine. It was dried with anhydrous magnesium sulfate, filtered, concentrated and dried at 72° C. in vacuo for 40 minutes to yield 5-(2-azido-ethoxy)-3-(naphthalene-1-sulfonyl)-1H-indazole as a amber gum/foam (1.34 g, 86.5%). Mass spectrum (−EI, [M−H]−) m/z 392. 1HNMR (400 MHz, DMSO-d6): δ8.78 (d, 1H, J=8.70 Hz), 8.56 (dd, 1H, J=7.43 Hz and 1.16 Hz), 8.29 (d, 1H, J=8.35 Hz), 8.06 (d, 1H, J=7.66 Hz), 7.72-7.76 (m, 1H), 7.57-7.67 (m, 3H), 7.31 (d, 1H, J=2.32 Hz), 7.12 (dd, 1H, J=9.16 Hz and 2.32 Hz), 4.22-4.24 (m, 2H), 3.67-3.69 ppm (m, 2H).

reactant | Sodium azide | 12 mmol, 0.79 g | [N-]=[N+]=[N-].[Na+]
reactant | toluene-4-sulfonic acid 2-[3-(naphthalene-1-sulfonyl)-1H-indazol-5-yloxy]-ethyl ester | 3.94 mmol, 2.06 g | C1(=CC=CC2=CC=CC=C12)S(=O)(=O)C1=NNC2=CC=C(C=C12)OCCOS(=O)(=O)C1=CC=C(C=C1)C | C26H22N2O6S2
reactant | water | O | H2O
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 5-(2-azido-ethoxy)-3-(naphthalene-1-sulfonyl)-1H-indazole | 1.34 g, 86.5% | N(=[N+]=[N-])CCOC=1C=C2C(=NNC2=CC1)S(=O)(=O)C1=CC=CC2=CC=CC=C12 | C19H15N5O3S
